US03987182
C. 2-Isopropyl-1-methyl-6-nitro-5-trifluoromethylbenzimidazole
Slowly add 1.01 g. of 90% nitric acid dissolved in 2.2 ml. of concentrated sulfuric acid to a stirred solution of 3.00 g. of 2-isopropyl-1-methyl-5-trifluoromethylbenzimidazole in 13.2 ml. of concentrated sulfuric at about 5° C. Maintain the reaction at about 5° C for 2 hours. Pour the reaction mixture into 300 ml. of ice water and basify with 26 ml. of 50% sodium hydroxide followed by sodium carbonate. Extract with ether, dry over sodium sulfate and evaporate to dryness. Recrystallize from dichloromethane-hexane, obtaining the product of this example.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-isopropyl-1-methyl-5-trifluoromethylbenzimidazole | C(C)(C)C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C12H13F3N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-Isopropyl-1-methyl-6-nitro-5-trifluoromethylbenzimidazole | C(C)(C)C1=NC2=C(N1C)C=C(C(=C2)C(F)(F)F)[N+](=O)[O-] | C12H12F3N3O2
